US07189738B2
5-Chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide
To prepare the required acid chloride, 27.77 g of 2-chloro-5-thiophenecarboxylic acid (0.171 mol) are suspended in 50 ml of thionyl chloride (0.685 mol) and stirred at 90° C. for 90 min (after 15 min, a clear solution is formed). The resulting solution is concentrated under reduced pressure, twice subjected to azeotropic distillation with toluene, dissolved in 60 ml of toluene and, over a period of 40 min and at 20° C., added dropwise to a solution of 17.98 g (110.2 mmol) of 3-aminophthalic anhydride in 200 ml of pyridine. The mixture is stirred at RT overnight, the pyridine is evaporated under reduced pressure and the residue is twice stirred with toluene and re-evaporated. 11 of ethyl acetate and 0.51 of KH2PO4 buffer (pH=4–5) are added and the mixture is then shaken vigorously and filtered off with suction, and the solids are washed with ethyl acetate, pressed thoroughly dry and dried under reduced pressure over P2O5. The mother liquor is extracted three times with ethyl acetate and evaporated and the residue is stirred with ethyl acetate and filtered off with suction. This gives a total of 19.77 g (58.3% of theory) of the target compound of m.p. 195° C.

reactant | 2-chloro-5-thiophenecarboxylic acid | 0.171 mol, 27.77 g | ClC=1SC(=CC1)C(=O)O | C5H3ClO2S
reactant | thionyl chloride | 0.685 mol, 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminophthalic anhydride | 110.2 mmol, 17.98 g | NC1=C2C(C(=O)OC2=O)=CC=C1 | C8H5NO3
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-N-(1,3-dioxo-1,3-dihydro-2-benzofuran-4-yl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=CC=CC=2C(OC(C21)=O)=O | C13H6ClNO4S
